US04780477
To a suspension of 8.0 g of 5-methylisatin in 200 ml of acetic acid was added dropwise a solution of 3.3 ml of bromine in 50 ml of acetic acid with stirring at room temperature, and the mixture was heated at 50° C. for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from methanol-hexane to obtain 11.4 g of 7-bromo-5-methylisatin having a melting point of 176°-180° C.

reactant | 5-methylisatin | 8.0 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | bromine | 3.3 ml | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-5-methylisatin | 11.4 g | BrC=1C=C(C=C2C(C(NC12)=O)=O)C | C9H6BrNO2
